US07365193B2
2,7-Bis(3-diethylamino-propyn-1-yl)-fluoren-9-one
A mixture of 2,7-dibromofluoren-9-one (1.00 g, 2.97 mmol; Aldrich), 3-diethylamino-1-propyne (1.6 mL, 11.6 mmol; Lancaster), triethylamine (2 mL, 14.4 mmol; Acros), dichlorobis(triphenylphosphino)palladium(II) (Cl2Pd(PPh3)2; 90 mg, 0.13 mmol; Aldrich), and copper(I) iodide (130 mg, 0.68 mmol; Aldrich) in DMF (30 mL) was heated to 65° C. for 60 h. The reaction mixture was diluted with EtOAc, washed with water and brine, and dried over Na2SO4. The residue was purified twice by chromatography (80 g silica gel, eluting with 2-7% of 10% NH4OH/MeOH in CH2Cl2, followed by 80 g silica gel, 1-6% MeOH-CH2Cl2) to afford the title compound (1.12 g, 2.81 mmol, 95% yield). MS (DCl/NH3) m/z 399 (M+H)+.

reactant | 2,7-dibromofluoren-9-one | 2.97 mmol, 1.00 g | BrC1=CC=2C(C3=CC(=CC=C3C2C=C1)Br)=O | C13H6Br2O
reactant | 3-diethylamino-1-propyne | 11.6 mmol, 1.6 mL | C(C)N(CC#C)CC | C7H13N
reactant | triethylamine | 14.4 mmol, 2 mL | C(C)N(CC)CC | C6H15N
reactant | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | dichlorobis(triphenylphosphino)palladium(II) | 0.13 mmol, 90 mg | Cl[Pd-2](P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)(P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)Cl
catalyst | copper(I) iodide | 0.68 mmol, 130 mg | [Cu]I
product | 2,7-Bis(3-diethylamino-propyn-1-yl)-fluoren-9-one | 2.81 mmol, 1.12 g, 95% yield | C(C)N(CC#CC1=CC=2C(C3=CC(=CC=C3C2C=C1)C#CCN(CC)CC)=O)CC | C27H30N2O
